US07482366B2
Isopropylmagnesium bromide (2.0M in Et2O, 1.11 ml, 2.22 mmol) was added slowly to a solution of 2-(4-iodo-pyrazol-1-yl)-3-trifluoromethyl-pyridine (627 mg, 1.85 mmol) in 3 mL anhydrous THF at 0° C. under nitrogen. The reaction mixture was stirred at the same temperature for 2 hrs, and then followed by the addition of N-methoxy-N-methyl-acetamide (286 mg, 2.78 mmol). The mixture was allowed to warm to ambient temperature overnight. Saturated ammonium chloride was added to quench the reaction. Two layers were separated and the aqueous layer was extracted with ethyl acetate. The combined extract was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (25% EtOAC/Hexane) to give 1-[1-(3-trifluoromethyl-pyridin-2-yl)-1H-pyrazol-4-yl]-ethanone as a white solid (277 mg, 59% yield). 1H-NMR (400 MHz, CDCl3): δ 2.53 (s, 3H), 7.57 (dd, 1H, J=5.05, J=8.08), 8.18 (s, 1H), 8.27 (dd, 1H, J=1.52, J=8.08), 8.65 (s, 1H), 8.73 (d, 1H, J=4.03).

reactant | Isopropylmagnesium bromide | 2.22 mmol, 2.0M, 1.11 ml | C(C)(C)[Mg]Br
reactant | 2-(4-iodo-pyrazol-1-yl)-3-trifluoromethyl-pyridine | 1.85 mmol, 627 mg | IC=1C=NN(C1)C1=NC=CC=C1C(F)(F)F | C9H5F3IN3
reactant | N-methoxy-N-methyl-acetamide | 2.78 mmol, 286 mg | CON(C(C)=O)C | C4H9NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-[1-(3-trifluoromethyl-pyridin-2-yl)-1H-pyrazol-4-yl]-ethanone | 277 mg, 59% yield | FC(C=1C(=NC=CC1)N1N=CC(=C1)C(C)=O)(F)F | C11H8F3N3O
